US06372736B1
10% w/w Palladium on carbon (300 mg) was added to a solution of tert-butyl 2-[(2S)-2-[(benzyloxy)carbonyl]-1-piperidinyl]-1H-1,3-benzimidazole-1-carboxylate (900 mg) [see Preparation 47] in ethanol (30 ml). The reaction mixture was hydrogenated at 103.5 kPa (15 psi) at room temperature for 18 hours. The catalyst was then filtered off and the solvent removed under reduced pressure to afford (2S)-1-[1-(tert-butoxycarbonyl)-1H-1,3-benzimidazol-2-yl]-2-piperidinecarboxylic acid (700 mg) as a white foam.

reactant | tert-butyl 2-[(2S)-2-[(benzyloxy)carbonyl]-1-piperidinyl]-1H-1,3-benzimidazole-1-carboxylate | 900 mg | C(C1=CC=CC=C1)OC(=O)[C@H]1N(CCCC1)C1=NC2=C(N1C(=O)OC(C)(C)C)C=CC=C2 | C25H29N3O4
catalyst | Palladium on carbon | 300 mg | [Pd] | Pd
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | (2S)-1-[1-(tert-butoxycarbonyl)-1H-1,3-benzimidazol-2-yl]-2-piperidinecarboxylic acid | 700 mg | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC=C2)N2[C@@H](CCCC2)C(=O)O | C18H23N3O4
